US09328081B2
To the solution of (1E,6E)-1,7-bis(4-hydroxy-3-methoxyphenyl)hepta-1,6-diene-3,5-dione (368 mg, 1.0 mmol, 1.0 eq.) in dry acetone (10 mL) were added anhydrous K2CO3 (138 mg, 1.0 mmol, 1.0 eq.) and sulfuric acid dimethyl ester (176 mg, 1.0 mmol, 1.0 eq.) at rt. The reaction mixture was heated under reflux overnight, cooled, diluted with water and extracted with CH2Cl2 (30 mL×3). The combined organic layers were washed with H2O, dried over anhydrous Na2SO4 and concentrated. The resulting residue was purified by silica column chromatography using CH2Cl2 as eluent to provide (1E,6E)-1-(3,4-dimethoxyphenyl)-7-(4-hydroxy-3-methoxyphenyl)hepta-1,6-diene-3,5-dione (170 mg, 44%).

reactant | (1E,6E)-1,7-bis(4-hydroxy-3-methoxyphenyl)hepta-1,6-diene-3,5-dione | 1.0 mmol, 368 mg, 1.0 eq. | OC1=C(C=C(C=C1)\C=C\C(CC(\C=C\C1=CC(=C(C=C1)O)OC)=O)=O)OC | C21H20O6
reactant | K2CO3 | 1.0 mmol, 138 mg, 1.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | sulfuric acid dimethyl ester | 1.0 mmol, 176 mg, 1.0 eq. | COS(OC)(=O)=O | C2H6O4S
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | (1E,6E)-1-(3,4-dimethoxyphenyl)-7-(4-hydroxy-3-methoxyphenyl)hepta-1,6-diene-3,5-dione | 170 mg, 44% | COC=1C=C(C=CC1OC)\C=C\C(CC(\C=C\C1=CC(=C(C=C1)O)OC)=O)=O | C22H22O6
